**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 Common Mode Power Line Choke
* Matchcode: 		WE-LPCC
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.subckt 7448680100_450u 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0096
.param L1=0.0003221975088665
.param L2=0.000138806014097662
.param L3=7.97843988970392e-005
.param L4=0.000144978504397109
.param L5=2.78474418896237e-009
.param C1=2.22385066019387e-012
.param C2=1.27890165252899e-010
.param Rs1=1098.61272349974
.param Rs2=953.146619380167
.param Rs3=407.027890762303
.param Rs4=891.145501401177
.param Rs5=678.132914563373
.param R2=27.3015949665267
.param dL3=9.72189206246018e-007
.param dL4=4.19596980009255e-008
.param dC3=7.88193146340315e-012
.param dC4=5.12601360569342e-007
.param dR3=0.0761815621331065
.param dR4=3220.67501105579
.param dR5=0.969914342682361
.param dR6=1397.34960720296
.param ck=0.001pF
.backanno
.ends 7448680100_450u 
*****************
.subckt 7448680120_330u 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.006
.param L1=0.000140937619986914
.param L2=4.39657828747604e-005
.param L3=0.000228812259298393
.param L4=2.09686818217626e-005
.param L5=1.80996796801061e-009
.param C1=2.62473145062263e-012
.param C2=1.63288004918243e-010
.param Rs1=887.652263869152
.param Rs2=122.215118100556
.param Rs3=1199.87862879898
.param Rs4=162.811026527533
.param Rs5=253.660260908156
.param R2=2.82649376860016
.param dL3=6.97796037928061e-007
.param dL4=3.36415012186165e-008
.param dC3=8.41169616027121e-012
.param dC4=4.36820246625976e-007
.param dR3=0.806367379842407
.param dR4=2368.20342131664
.param dR5=1.97725336386679
.param dR6=1145.0509725041
.param ck=0.001pF
.backanno
.ends 7448680120_330u
**************
.subckt 7448680140_230u 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0036
.param L1=9.17505820928204e-005
.param L2=4.55431387495439e-005
.param L3=0.000158398832956116
.param L4=2.90032026604691e-005
.param L5=1.70580399894645e-009
.param C1=2.41938718795632e-012
.param C2=1.27548331987044e-010
.param Rs1=417.400070459493
.param Rs2=260.350887703824
.param Rs3=755.106239369326
.param Rs4=171.389325640953
.param Rs5=298.867701181834
.param R2=26.4737055397191
.param dL3=4.9808207293008e-007
.param dL4=3.61129405642388e-008
.param dC3=8.13205464021318e-012
.param dC4=2.54260987283725e-007
.param dR3=0.635735394449898
.param dR4=1634.44212144151
.param dR5=0.789247201779795
.param dR6=381.135413958701
.param ck=0.001pF
.backanno
.ends 7448680140_230u
***************
.subckt 7448680180_150u 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1
.param Rdc=0.0019
.param L1=5.94696365448658e-005
.param L2=5.35995806002837e-005
.param L3=2.99470000000001e-005
.param L4=9.02845058072998e-005
.param L5=8.88507500226719e-010
.param C1=2.58233340391014e-012
.param C2=2.44995987282382e-011
.param Rs1=359.694127476125
.param Rs2=237.304374645143
.param Rs3=174.676210628111
.param Rs4=199.998443202317
.param Rs5=185.012410435095
.param R2=53.2303666048204
.param dL3=3.05917332555267e-007
.param dL4=2.74094071239454e-008
.param dC3=7.5254925075227e-012
.param dC4=7.03919303399164e-007
.param dR3=0.0327773452949108
.param dR4=1011.52911069511
.param dR5=2.89048479883329
.param dR6=612.971531654816
.param ck=0.001pF
.backanno
.ends 7448680180_150u 
**********
.subckt 7448680200_120u 1 2 3 4
R1 N004 1 {Rdc}
R2 N006 N004 {dR4}
C1 N005 N004 {dC3}
L1 N011 N004 {dL3}
L2 N018 N019 {dL3}
C2 N011 N019 {ck}
R3 N006 N005 {dR3}
R4 N020 N022 {dR3}
C3 N022 N018 {dC3}
R5 N020 N018 {dR4}
L3 N006 N011 {dL3}
L4 N019 N020 {dL3}
R6 N018 2 {Rdc}
R8 N001 N006 {dR6}
C4 N007 N006 {dC4}
L5 N012 N006 {dL4}
L6 N020 N021 {dL4}
C5 N012 N021 {ck}
R9 N001 N007 {dR5}
R10 N013 N023 {dR5}
C6 N023 N020 {dC4}
R11 N013 N020 {dR6}
L7 N001 N012 {dL4}
L8 N021 N013 {dL4}
L9 N009 N008 {L3}
C7 N003 N002 {C1}
R13 N009 N008 {Rs3}
L10 4 N010 {L1}
R14 4 N010 {Rs1}
L11 N010 N009 {L2}
R15 N010 N009 {Rs2}
L12 N016 N015 {L3}
C8 N024 N014 {C1}
L13 3 N017 {L1}
L14 N017 N016 {L2}
R16 4 N003 {R2}
R17 3 N024 {R2}
L15 N015 N014 {L4}
R18 N008 N002 {Rs4}
L16 N008 N002 {L4}
R21 3 N017 {Rs1}
R22 N017 N016 {Rs2}
R23 N016 N015 {Rs3}
R24 N015 N014 {Rs4}
R25 N002 N001 {Rs5}
R26 N014 N013 {Rs5}
C9 N002 N001 {C2}
C10 N014 N013 {C2}
L17 N002 N001 {L5}
L18 N014 N013 {L5}
K7 L1 L3 L2 L4 0.9999
K6 L5 L7 L6 L8 0.9999
K3 L9 L12 1
K2 L11 L14 1
K1 L10 L13 1
K4 L16 L15 1
K5 L17  L18 1 
.param Rdc=0.0014
.param L1=2.22537299710507e-005
.param L2=1.27897312638484e-005
.param L3=8.14890797193895e-005
.param L4=1.68292511804643e-005
.param L5=2.61567100901019e-010
.param C1=2.82744800265351e-012
.param C2=1.09642127093973e-011
.param Rs1=115.161430475641
.param Rs2=74.2938925681102
.param Rs3=440.832631283561
.param Rs4=86.2417269707834
.param Rs5=80.4606641868868
.param R2=2.23977734039555
.param dL3=2.24931687710815e-007
.param dL4=2.18643574852112e-009
.param dC3=8.43903858557102e-012
.param dC4=5.97301161330001e-007
.param dR3=0.212521248974478
.param dR4=736.197549992419
.param dR5=2.22895647395249
.param dR6=142.37716329747
.param ck=0.001pF
.backanno
.ends 7448680200_120u